Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMHx HIV (CD4 472), history of meningitis and history of 
cryptosporidium presents with fever, diarrhea. Pt developed 
diarrhea starting on ___, which was associated with fever. He 
initially thought that his first episode of diarrhea was bloody, 
but in restrospect thinks he may have eaten something red. Pt 
had ___ episodes of diarrhea today and 9 episodes today, none of 
which were bloody. He has had crampy, lower abdomeinal pain. No 
n/v. Pt reports that this does not feel like his previous 
episode of cryptosporidium. He notably ate a large meal on 
___, consisting of burger meat that was cooked medium-well. 
He also had barbecue. No recent seafood or shellfish ingestion. 
Pt notably does have receptive anal sex with multiple sexual 
partners. Pt notably took doxycycline ~1 month ago for 
chlamydia. He also notes that he has been using IV 
methamphetamines ___, and he requests HCV testing.  
 
 In the ED, initial vitals were:  
 98.2; 94; 118/68; 16; 99% RA  
 Labs notable for:  
 Na: 132  
 Cr: 1.2  
 H/H: 12.0/35.5 (unknown baseline)  
 Stool studies sent  
 Imaging notable for:  
 CT A/P:  
 IMPRESSION:  
 Moderate fecal loading without evidence for acute 
intra-abdominal process.  
 Pt spiked a fever to 102.1 in the ED.  
 Patient was given:  
 IV Ciprofloxacin 400 mg  
 IV MetRONIDAZOLE (FLagyl) 500 mg  
 PO Acetaminophen 1000 mg  
 IV Ketorolac 15 mg  
 IVF 1000 mL NS 1000 mL  
 Vitals prior to transfer:  
 102.1; 110; 116/60; 18; 98% RA  
 
 On the floor, pt reports continued mild abdominal pain. He 
notes that he feels very hungry and would like to eat and drink.
 
Past Medical History:
HIV on Stribild  
h/o meningitis  
Inguinal hernia repair 2 months ago 
h/o Cryptosporidium infection
h/o prostatitis
 
Social History:
___
Family History:
Unknown, pt is adopted.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
Vital Signs:  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, mild TTP in lower quadrants, non-distended, 
bowel sounds present, no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

PHYSICAL EXAM ON DISCHARGE:
===========================
Vital Signs:  99.5 97/52 HR87 RR16 99%RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no rubs, gallops, 
?faint systolic murmur on auscultation 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred 
 
Pertinent Results:
LABS ON ADMISSION:
==================
___ 08:47PM   WBC-6.5 RBC-3.75* HGB-12.0* HCT-35.5* MCV-95 
MCH-32.0 MCHC-33.8 RDW-12.9 RDWSD-44.7
___ 08:47PM   NEUTS-53.5 ___ MONOS-20.7* EOS-1.5 
BASOS-0.5 IM ___ AbsNeut-3.49 AbsLymp-1.54 AbsMono-1.35* 
AbsEos-0.10 AbsBaso-0.03
___ 08:47PM   GLUCOSE-81 UREA N-11 CREAT-1.2 SODIUM-132* 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-25 ANION GAP-12
___ 09:00PM   LACTATE-1.2
___ 10:44PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-6.0 
LEUK-NEG
___ 10:44PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:44PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0

MICRO:
======
___ 11:28 BLOOD CULTURE Blood Culture, Routine -pending
___ 07:56 BLOOD CULTURE Blood Culture, Routine- pending
___ 02:10 STOOL OVA + PARASITES 
     C. diff - negative, remaining pending

STUDIES:
========
Mild hyperemia of the distal colon and rectum, suggestive of 
proctitis.

LABS ON DISCHARGE:
==================
___ 06:56AM BLOOD WBC-6.8 RBC-3.25* Hgb-10.5* Hct-31.1* 
MCV-96 MCH-32.3* MCHC-33.8 RDW-13.0 RDWSD-45.2 Plt ___
___ 06:56AM BLOOD Glucose-108* UreaN-12 Creat-1.1 Na-138 
K-3.8 Cl-105 HCO3-23 AnGap-14
___ 06:56AM BLOOD ALT-14 AST-13 AlkPhos-90 TotBili-0.3
___ 06:56AM BLOOD Calcium-8.3* Phos-2.7 Mg-1.8
___ 01:20PM BLOOD LYMPHOGRANULOMA VENEREUM (LGV)-PND
___ 06:56AM BLOOD HCV Ab-Negative
 
Brief Hospital Course:
___ PMHx HIV (CD4 472), h/o meningitis, h/o cryptosporidium who 
presents with fever and one day of diarrhea. He reported several 
episodes of loose stools (non bloody) on the day of presentation 
in addition to fevers and abdominal cramping. CT abdomen/pelvis 
in ED revealed mild hyperemia of the distal colon and rectum, 
suggestive of proctitis. Patient received fluids and 
Cipro/Flagyl and was admitted to medicine for further 
evaluation. Patient's diarrhea and symptoms improved over night 
and he remained afebrile. Stool studies were sent and c diff 
returned negative. Remainder of stool and blood cultures were 
pending at discharge and will be followed by the primary team. 
Patient reported good appetite and PO intake and was discharged 
to home on ___ with plan for follow up with Dr. ___ 
at ___ within ___ days.

Transitional Issues
====================
[ ] patient requested HCV testing and serum Ab pending at 
discharge. Result will be communicated to PCP. If negative, may 
consider VL given recent needle exposure.
[ ] patient should complete 5 day course of Ciprofloxacin/Flagyl 
(last day ___.
[ ] Blood and stool cultures pending at discharge. Results to be 
followed up by primary team and communicated to PCP.
[ ] Patient's Tamsulosin stopped during admission due to concern 
about interaction with Stribild. It is also unclear if this 
medication is needed. This medication should be held pending 
further discussion with PCP.
[ ] Patient should follow up with PCP ___ ___ days of 
discharge or sooner if symptoms worsen.
[ ] Given findings of proctitis on CT, would consider 
colonoscopy as outpatient.
Code: Full
Contact: ___ (friend) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Stribild 1 TAB PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*14 Tablet Refills:*0 
3.  Stribild 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
==================
Infectious Diarrhea
Proctitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

Why were you admitted to the hospital?
-You were admitted for fever, persistent diarrhea and evidence 
of dehydration.

What did we do for you in the hospital?
-You had a CT of your abdomen which revealed inflammation of the 
colon and rectum, consistent with proctitis.
-You received IV fluids
-You were started on antibiotics
-Your stool was sent for infectious work up.

What should you do at home?
-You should remain well hydrated.
-You should continue taking Ciprofloxacin and Flagyl for a total 
of 5 day course (last day ___.
-You should follow up with Dr. ___ in the next ___ 
days.
-Please call your doctor or return to the ED if your fever 
worsens, if you develop worsening abdominal pain or diarrhea.

We wish you all the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___